US06852749B1
1,2-Diphenyl-4-hydroxy-4-(4-methylphenyl)-3,5-pyrazolidinedione
A mixture of 1,2-diphenyl-4-(4-methylphenyl)-3,5-pyrazolidinedione (1.10 g; 3.2 =mol), 35% H2O2 (0.47 ml; 5.5 mmol), and acetic acid (40 ml) was stirred 16 days at room temperature. Sodium metabisulfite (1.0 g) was added and excess acetic acid evaporated off. The residue was dissolved in hot ethyl acetate (25 ml) and benzene (25 ml) and filtered. After cooling to room temperature, the mixture was filtered and the residue recrystallized from 50% aqueous ethanol (20 ml) to give 0.58 g (53%).

reactant | 1,2-diphenyl-4-(4-methylphenyl)-3,5-pyrazolidinedione | 1.10 g | C1(=CC=CC=C1)N1N(C(C(C1=O)C1=CC=C(C=C1)C)=O)C1=CC=CC=C1 | C22H18N2O2
reactant | H2O2 | 5.5 mmol, 0.47 ml | OO | H2O2
reactant | Sodium metabisulfite | 1.0 g | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 1,2-Diphenyl-4-hydroxy-4-(4-methylphenyl)-3,5-pyrazolidinedione | C1(=CC=CC=C1)N1N(C(C(C1=O)(C1=CC=C(C=C1)C)O)=O)C1=CC=CC=C1 | C22H18N2O3
